US05412117
To a mixture of 41.5 g of 3,4-dihydro-2,2-dimethyl-6-nitro-2H-1-benzopyran-3-one and 500 ml of dried N,N-dimethylformamide was slowly added 8.2 g of sodium hydride (60%) in a nitrogen stream while stirring under cooling with ice. After stirring for 50 minutes, 33.5 g of carbonyl diimidazole was added thereto and the mixture stirred for 1 hour. To the reaction mixture were added 11.2 g of ammonium chloride and 29 ml of triethylamine, followed by stirring at 5° C. for 12 hours and then at room temperature for 14 hours. Ice-water was added to the reaction mixture, and the mixture was washed with diethyl ether. The aqueous layer was made acidic with hydrochloric acid and extracted with a mixed solvent of ethyl acetate and diethyl ether. The organic layer was washed with water and dried. The solvent was removed by distillation, and the residue was purified by silica gel column chromatography (developing solution: CH2Cl2 :MeOH=99:1) to obtain 23.2 g of 3-hydroxy-2,2-dimethyl-6-nitro-2H-1-benzopyran-4-carboxamide represented by formula shown below.

reactant | 3,4-dihydro-2,2-dimethyl-6-nitro-2H-1-benzopyran-3-one | 41.5 g | CC1(OC2=C(CC1=O)C=C(C=C2)[N+](=O)[O-])C | C11H11NO4
reactant | sodium hydride | 8.2 g | [H-].[Na+]
reactant | carbonyl diimidazole | 33.5 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | ammonium chloride | 11.2 g | [Cl-].[NH4+]
solvent | triethylamine | 29 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 3-hydroxy-2,2-dimethyl-6-nitro-2H-1-benzopyran-4-carboxamide | 23.2 g | OC=1C(OC2=C(C1C(=O)N)C=C(C=C2)[N+](=O)[O-])(C)C | C12H12N2O5
